US06265575B1
Part C. 2-(4-Hydroxyphenyl)benzo[b]thiophen-3-yl 3-Methyl-4-hydroxyphenyl Ketone
A 0° C. solution of 700 mg (1.80 mmol) of 2-(4-methoxyphenyl)benzo[b]thiophen-3-yl 3-methyl-4-methoxyphenyl ketone (Part B) in 25 mL of CH2Cl2 was treated with 7.2 mL of BBr3 (1.0 M in CH2Cl2). The reaction was stirred at 0° C. for 6 h, then cooled to −78° C., and was treated carefully with 50 mL of MeOH. The mixture was allowed to warm to room temperature over 1.5 h, and the volatiles were evaporated in vacuo. The dark red residue (monomethyl ether) was taken up in 75 mL dichloroethane and was treated with AlCl3 and ethanethiol according to the conditions of Example 1, Part D to afford 675 mg of an oil. Purification by radial chromatography (SiO2; gradient of 20-30% EtOAc in hexanes) afforded 410 mg (1.14 mmol; 63%) of the title compound as an orange solid.

reactant | 2-(4-methoxyphenyl)benzo[b]thiophen-3-yl 3-methyl-4-methoxyphenyl ketone | 1.80 mmol, 700 mg | CC=1C=C(C=CC1OC)C(=O)C=1C2=C(SC1C1=CC=C(C=C1)OC)C=CC=C2 | C24H20O3S
reactant | BBr3 | 1.0 M, 7.2 mL | B(Br)(Br)Br | BBr3
reactant | MeOH | 50 mL | CO | CH4O
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Hydroxyphenyl)benzo[b]thiophen-3-yl 3-Methyl-4-hydroxyphenyl Ketone | 675 mg | CC=1C=C(C=CC1O)C(=O)C=1C2=C(SC1C1=CC=C(C=C1)O)C=CC=C2 | C22H16O3S
